US09145433B2
6-(2-(4-Fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine (Compound 269) can be prepared via the reactions shown in the first two steps of Scheme 20: (2′-(4-Fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methanamine (2.18 g) and formic acid (15 mL) were stirred and heated under nitrogen atmosphere at 100° C. After 72 h, the reaction mixture was concentrated and partitioned between CH2Cl2/aq. NaHCO3. Usual work-up and purification by flash column chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g and 50-100% EtOAC/hexanes as elutant) provided 630 mg of N-((2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methyl)formamide as an off white solid. N-((2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methyl)formamide (630 mg) and POCl3 (3 mL) were stirred and heated in benzene (20 mL) overnight at 75° C. The reaction mixture was cooled to room temperature and concentrated. Subsequently, ice/water solution was added to the crude residue followed by CH2Cl2 and aq. NaHCO3. Upon allowing the solution warm to room temperature, organic layer was separated, stirred over Na2SO4, filtered and concentrated. Purification of the crude residue by flash column chromatography (Combiflash® companion System® with RediSep® silica gel column 40 g and 2-8% MeOH/CH2Cl2 as an eluting solvent) provided 320 mg of 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine as an off-white solid.

reactant | N-((2′-(4-fluoro-3-methylphenyl)-[3,3′-bipyridin]-6-yl)methyl)formamide | 630 mg | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=NC(=CC1)CNC=O)C | C19H16FN3O
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | 6-(2-(4-fluoro-3-methylphenyl)pyridin-3-yl)imidazo[1,5-a]pyridine | 320 mg | FC1=C(C=C(C=C1)C1=NC=CC=C1C=1C=CC=2N(C1)C=NC2)C | C19H14FN3
